US07723333B2
4-(Benzyloxy)phenyl methanesulfonate
4-(Benzyloxy)phenol (4.00 g, 19.98 mmol) was dissolved in dry DCM (80 mL) under nitrogen atmosphere and cooled in an ice-water bath. Methanesulfonyl chloride (2.75 g, 23.97 mmol) was added during stirring followed by TEA (3.03 g, 29.96 mmol). The reaction mixture was stirred at rt for 2 h and then washed with saturated aqueous NaHCO3, dried (MgSO4), filtered and evaporated affording the title compound (5.32 g, 95.6%). 1H NMR (500 MHz, CDCl3): δ 3.13 (s, 3H), 5.08 (s, 2H), 7.01 (m, 2H), 7.23 (m, 2H), 7.35-7.45 (m, 5H).

reactant | 4-(Benzyloxy)phenol | 19.98 mmol, 4.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | Methanesulfonyl chloride | 23.97 mmol, 2.75 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-(Benzyloxy)phenyl methanesulfonate | 5.32 g, 95.6% | CS(=O)(=O)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C14H14O4S
